US06147255
(a) N-Methyl-4-bromo-2-pyrrolecarboxaldehyde
In a similar manner to Example 10(b), by reaction of 4 g (23 mmol) of 4-bromo-2-pyrrolecarboxaldehyde with 1.7 ml (27.6 mmol) of iodomethane, 2.3 g (50%) of the expected product are obtained, with a melting point of 123-4° C.

reactant | 4-bromo-2-pyrrolecarboxaldehyde | 23 mmol, 4 g | BrC=1C=C(NC1)C=O | C5H4BrNO
reactant | iodomethane | 27.6 mmol, 1.7 ml | IC | CH3I
product | N-Methyl-4-bromo-2-pyrrolecarboxaldehyde | 2.3 g, 50% | CN1C(=CC(=C1)Br)C=O | C6H6BrNO
